US07300935B2
Production of N-(4-(5-chloromethyl-1-(2,6-difluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxo-3-phenylthieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea
Into a solution of N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxo-3-phenylthieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea (7.7 g, 11.53 mmol) in THF (200 ml) which was cooled with a dry ice-acetone bath was added α-chloroethyl chloroformate (1.7 ml, 11.64 mmol). The temperature of the mixture was elevated up to room temperature, and the mixture was stirred for 2.5 hours. The reaction mixture was diluted with saturated aqueous solution of sodium bicarbonate and extracted with chloroform. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure.

reactant | N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxo-3-phenylthieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea | 11.53 mmol, 7.7 g | C(C1=CC=CC=C1)N(C)CC1=C(SC=2N(C(N(C(C21)=O)C2=CC=CC=C2)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)NC(=O)NOC | C36H31F2N5O4S
reactant | α-chloroethyl chloroformate | 11.64 mmol, 1.7 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(4-(5-chloromethyl-1-(2,6-difluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxo-3-phenylthieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea | ClCC1=C(SC=2N(C(N(C(C21)=O)C2=CC=CC=C2)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)NC(=O)NOC | C28H21ClF2N4O4S
